US04753941
The procedure is similar to that described in Example 2, but starting with 4-pyridinecarboxylic acid (6.2 g), N,N'-carbonyldiimidazole (8.1 g) and 2-amino-7-chloro-1,8-naphthyridine (9 g). The product obtained, after precipitation in water (500 cc), washing with tetrahydrofuran (50 cc), then washing with water (200 cc) and drying (9.8 g; m.p. approximately 220° C.), is purified by crystallization in acetonitrile (850 cc). N-(7-Chloro-1,8-naphthyridin-2-yl)-4-pyridinecarboxamide (5.2 g), m.p. 228° C., is thereby obtained.

reactant | 4-pyridinecarboxylic acid | 6.2 g | N1=CC=C(C=C1)C(=O)O | C6H5NO2
reactant | 2-amino-7-chloro-1,8-naphthyridine | 9 g | NC1=NC2=NC(=CC=C2C=C1)Cl | C8H6ClN3
product | N-(7-Chloro-1,8-naphthyridin-2-yl)-4-pyridinecarboxamide | 5.2 g | ClC1=CC=C2C=CC(=NC2=N1)NC(=O)C1=CC=NC=C1 | C14H9ClN4O
